US09212187B2
Synthesis of {N-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-N-(pyridin-4-ylmethyl)amino}acetic acid
A 1N-sodium hydroxide aqueous solution(3 ml) was added to a methanol solution (15 ml) of {N-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-N-(pyridin-4-ylmethyl)amino}acetic acid ethyl ester (614 mg). The mixture was stirred at room temperature overnight. 1N-Hydrochloric acid(3 ml) was added to the reaction mixture and condensed under reduced pressure. Methanol was added to the residue, and the generated insoluble matter was separated by filtration. The filtrate was condensed under reduced pressure to give the title compound(468 mg) as a white amorphous solid.

reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | {N-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-N-(pyridin-4-ylmethyl)amino}acetic acid ethyl ester | 614 mg | C(C)OC(CN(CC1=CC=NC=C1)CCCOC=1C=C2C=CC(N(C2=CC1)C)=O)=O | C23H27N3O4
reactant | Hydrochloric acid | 3 ml | Cl | ClH
solvent | Methanol | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
product | {N-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)propyl]-N-(pyridin-4-ylmethyl)amino}acetic acid | 468 mg | CN1C(C=CC2=CC(=CC=C12)OCCCN(CC1=CC=NC=C1)CC(=O)O)=O | C21H23N3O4
